US06884821B1
0.30 g of methyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzoate, 0.19 g of bromobenzene, 57mg of 1,1-bis(diphenylphosphino)ferrocene dichloropalladium and 0.55 g of potassium carbonate were dissolved in 15 ml dimethoxyethane, and the mixture was heated under reflux for 1 hour. After cooling the reaction solution to room temperature, ethyl acetate and water were added thereto. The mixture was filtered through Celite, and the mother liquor was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (5:1), methyl 2-chloro-4-phenylbenzoate was obtained. Then, the resulting methyl 2-chloro-4-phenylbenzoate was dissolved in 4 ml methanol, and 2 ml of 1N sodium hydroxide was added, and the mixture was stirred at room temperature for 6 hours. The reaction mixture was ice-cooled and neutralized with 1N hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was evaporated, to give 0.12 g of 2-chloro-4-phenylbenzoic acid.

reactant | methyl 2-chloro-4-phenylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1)C1=CC=CC=C1 | C14H11ClO2
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-chloro-4-phenylbenzoic acid | 0.12 g | ClC1=C(C(=O)O)C=CC(=C1)C1=CC=CC=C1 | C13H9ClO2
